US07645773B2
To a solution of 2-(2-hydroxymethyl-phenyl)-thiazole-4-carboxylic acid, ethyl ester (1.3 g) in THF (5 mL) was added an aqueous solution of LiOH:H2O (472 mg in 5 mL water) and the resulting biphasic mixture was stirred vigorously at room temperature for 3 h. The reaction mixture was then acidified with 1N HCl, diluted with water and extracted three times with ethyl acetate. The combined organic extracts were dried over anhydrous sodium sulfate and then concentrated. The crude product was dissolved in a small amount of ethyl acetate and precipitated by addition of hexanes to give 2-(2-hydroxymethyl-phenyl)-thiazole-4-carboxylic acid (926 mg) as a light yellow solid. HRMS calcd for Cl1H9NO3S (M+) 235.0303, observed 235.0302.

reactant | 2-(2-hydroxymethyl-phenyl)-thiazole-4-carboxylic acid, ethyl ester | 1.3 g | OCC1=C(C=CC=C1)C=1SC=C(N1)C(=O)OCC | C13H13NO3S
reactant | LiOH | [Li+].[OH-]
reactant | HCl | 1N | Cl | ClH
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
solvent | H2O | 5 mL, 472 mg | O | H2O
product | 2-(2-hydroxymethyl-phenyl)-thiazole-4-carboxylic acid | 926 mg | OCC1=C(C=CC=C1)C=1SC=C(N1)C(=O)O | C11H9NO3S
